US07297707B2
N-Benzothiazol-2-yl-2-chloro-N-(3-methoxy-4-methyl-phenyl)-benzamide
A mixture of 0.339 g (2 mmol) 2-Chlorobenzthiazole (commercially available) and 0.275 g (2 mmol) 3-methoxy-4-methylaniline (commercially available) in 4 ml acetic acid was heated to 115° C. for 4 h. After cooling to room temperature the mixture was subjected to preparative HPLC separation on reversed phase eluting with an acetonitrile/water gradient. The product fractions of Benzothiazol-2-yl-(3-methoxy-4-methyl-phenyl)-amine were evaporated to dryness and reacted according to the procedure described for Example 2 with 2-chlorobenzoyl chloride to yield the title compound. MS (m/e): 409.3 (MH+, 100%). According to the procedure described for Example 35 further N-Benzothiazol-2-yl-N-(aryl)-benzamide derivatives have been synthesised by reaction of 2-chlorobenzthiazole with the respective aniline (commercially available) and subsequently with the respective acid chloride. The results are shown in table 2 below and comprise Example 36 to Example 43.

reactant | 2-Chlorobenzthiazole | 2 mmol, 0.339 g | ClC=1SC2=C(N1)C=CC=C2 | C7H4ClNS
reactant | 3-methoxy-4-methylaniline | 2 mmol, 0.275 g | COC=1C=C(N)C=CC1C | C8H11NO
reactant | 2-chlorobenzoyl chloride | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | N-Benzothiazol-2-yl-2-chloro-N-(3-methoxy-4-methyl-phenyl)-benzamide | S1C(=NC2=C1C=CC=C2)N(C(C2=C(C=CC=C2)Cl)=O)C2=CC(=C(C=C2)C)OC | C22H17ClN2O2S
